US05725798
Then, 0.12 g of 5% palladium/carbon and 30 ml of a tetrahydrofuran solution containing 1.21 g of 4-((R)-1-methylheptyloxycarbonyl)benzoic acid benzyl ester were stirred overnight at room temperature in a stream of hydrogen to decompose a benzyl protective group by hydrogenation. 5% palladium/carbon was removed using Celite as a filter aid, and the filtrate was concentrated. The concentrate obtained was purified by column chromatography to obtain 0.91 g of 4-((R)-1-methylheptyloxycarbonyl)benzoic acid as a colorless liquid (gradually crystallized) (isolated yield: 99%).

reactant | 4-((R)-1-methylheptyloxycarbonyl)benzoic acid benzyl ester | 1.21 g | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C(=O)O[C@@H](CCCCCC)C)=O | C23H28O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 0.12 g | [Pd] | Pd
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-((R)-1-methylheptyloxycarbonyl)benzoic acid | 0.91 g, yield: 99% | C[C@H](CCCCCC)OC(=O)C1=CC=C(C(=O)O)C=C1 | C16H22O4
